US06749839B2
a) Preparation of 2-ethylhexyl 3-(4-aminophenyl)-2-cyanoacrylate
36.3 g (0.3 mol) of p-aminobenzaldehyde are suspended in 450 ml of isopropanol. A mixture of 59.1 g (0.3 mol) of 2-ethylhexyl cyanoacetate and of catalyst (0.375 ml of diethylamine and 1.125 ml of acetic acid) is introduced therein. The mixture is refluxed for 5 hours. The same amount of catalyst is added again and refluxing is continued for a further 4 hours. The insoluble materials are removed by hot filtration and the mixture is concentrated to a volume of 300 ml and left to crystalize. After filtration and drying, 59.6 g (66% yield) of an orange-coloured powder are obtained, and are used without further purification for the following step.

reactant | p-aminobenzaldehyde | 0.3 mol, 36.3 g | NC1=CC=C(C=O)C=C1 | C7H7NO
reactant | 2-ethylhexyl cyanoacetate | 0.3 mol, 59.1 g | C(#N)CC(=O)OCC(CCCC)CC | C11H19NO2
reactant | diethylamine | 0.375 ml | C(C)NCC | C4H11N
reactant | acetic acid | 1.125 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 450 ml | C(C)(C)O | C3H8O
product | 2-ethylhexyl 3-(4-aminophenyl)-2-cyanoacrylate | 59.6 g, 66% yield | NC1=CC=C(C=C1)C=C(C(=O)OCC(CCCC)CC)C#N | C18H24N2O2
